Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Augmentin / phenylephrine
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
___ Placement of Left sided chest tube
___ Removal of Left sided chest tube

 
History of Present Illness:
This is a ___ with severe COPD/emphysema on 3 L NC at baseline
s/p Spiration endobronchial valve placement LUL x5 on ___ 
presenting with worsening dyspnea.
 
Her post procedure course was complicated with emergent chest
tube placement for pneumothorax. She had a 16 day hospital 
course
with persistent airleak - air leak resolved and chest tube was 
discontinued. 

In regards to current presentation, patient states that symptoms 
initially began with COPD flare approximately 2 weeks ago for 
which she completed a course of increased prednisone and 
standing nebulizers. Of note, patient states on ___ had a 
outpatient CXR in OSH, showing no pneumonia or pneumothorax. She 
felt worse last week despite treatment and called in to Dr. ___ 
on ___. She continued to have dyspnea with ambulation and had 
noted little improvement in cough. Her oxygen requirement had 
increased to 5L NC. She was told to remain on increased dose of 
prednisone 60mg daily and to start tapering ___ as tolerated. 
Patient states she is currently on prednisone 55mg daily as 
prescribed by her PCP. She also completed a 5 day course of 
levaquin for possibility of bronchitis. After completion of 
levaquin, she has restarted her home azithromycin. Patient noted 
that by ___ she felt worse in terms of dyspnea. Yesterday 
afternoon at 12pm, however, she started having stabbing chest 
pain when ambulating up the stairs. Symptoms dissipated but 
recurred again at approximately 3pm and radiated across her 
chest into her left shoulder and upper back. She had minimal 
improvement with nitroglycerin. She contacted IP office who 
recommended that she come into ED for evaluation given concern 
for recurrent pneumothorax. She went to local ED and was 
transferred to BI Ed for definitive management. CXR showed 
moderate left pneumothorax without evidence of tension. 

In the ED, initial vitals:  
03:43 6 98.7 85 118/78 20 98% Nasal Cannula 
On exam mildly uncomfortable, on NC O2 with SpO2 97% and RR 
___, LS diminished on L.
Today at 06:05, vitals significant for 5 75 140/79 14  99% 
Non-Rebreather 
Labs were significant for wbc 11 with abs monos 1.1  
Imaging showed initial CXR with moderate  left  pneumothorax  
without  evidence  of  tension. IP placed ___ tube in the L 
midclavicular line. Repeat CXR showed insertion of a left chest 
tube and re-expansion of the left lung with no appreciable 
pneumothorax on the left. 
Patient was administered: 2mg morphine X 3, 4mg IV Zofran. 
Plan was made to admit for 24 hours of suction and re-evaluation 
with repeat CXR in AM.
Vitals prior to transfer:  
Today 08:54 4 98.4 90 131/67 22 95% Nasal Cannula 

On the floor, patient has minimal complaints and reports pain 
___ at chest tube insertion site. Otherwise, she does note that 
she feels dry and would like to order something to eat. 
 
ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No nausea or 
vomiting. No diarrhea or constipation. No dysuria or hematuria. 
No hematochezia, no melena. No numbness or weakness, no focal 
deficits.  Last BM 2 days ago.
 
Past Medical History:
COPD/emphysema
GERD
Pneumonia
Adrenal insufficiency - ?steroid induced
Osteoporosis
 
Social History:
___
Family History:
Father: ___, died of pancreatic CA

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  T98.3 BP137/80 HR86 RR16 96%3L NC
GEN: Alert, chronically ill appearing, lying in bed, no acute 
distress  
HEENT: dry MM, anicteric sclera, no conjunctival pallor  
NECK: Supple without LAD  
CHEST: anterior left chest with chest tube in place with mild 
erythema but no pustulence, mild ttp
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Obese, soft, NT ND, normal BS  
EXTREM: Warm, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM
Vitals:  T97.4 BP129/73 HR69 RR18 93%3L NC ___ CT25cc
GEN: Alert, chronically ill appearing, sitting up in bed, no 
acute distress  
HEENT: dry MM, anicteric sclera, no conjunctival pallor  
NECK: Supple without LAD  
CHEST: anterior left chest with gauze in place over site of 
prior chest tube
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Obese, soft, NT ND, normal BS  
EXTREM: Warm, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS
___ 04:47AM BLOOD WBC-11.0* RBC-4.05 Hgb-12.3 Hct-37.6 
MCV-93 MCH-30.4 MCHC-32.7 RDW-15.1 RDWSD-51.5* Plt ___
___ 04:47AM BLOOD Neuts-70 Bands-3 Lymphs-16* Monos-10 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-8.03* AbsLymp-1.76 
AbsMono-1.10* AbsEos-0.11 AbsBaso-0.00*
___ 04:47AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+
___ 04:47AM BLOOD ___ PTT-19.8* ___
___ 04:47AM BLOOD Glucose-97 UreaN-17 Creat-0.8 Na-139 
K-3.8 Cl-102 HCO3-22 AnGap-19
___ 04:47AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.4

DISCHARGE LABS
___ 05:24AM BLOOD WBC-8.7 RBC-3.45* Hgb-10.4* Hct-32.3* 
MCV-94 MCH-30.1 MCHC-32.2 RDW-15.0 RDWSD-50.9* Plt ___
___ 05:24AM BLOOD Plt ___
___ 05:24AM BLOOD Glucose-107* UreaN-10 Creat-0.6 Na-137 
K-3.5 Cl-101 HCO3-27 AnGap-13
___ 05:24AM BLOOD Calcium-8.4 Phos-3.5 Mg-2.2

PERTINENT IMAGING
___ CXR 4:07AM
FINDINGS: 
Left apical lateral pneumothorax measuring up to 3.4 cm in 
largest dimension. 
No appreciable right pneumothorax is noted.  Atelectasis of the 
left lung base
with elevation of the left hemidiaphragm.  Re-expansion of the 
left upper lobe
___ chest radiograph.  Bronchial valves project over the 
left mid
lung.  The heart is normal in size.  Mediastinum is not widened. 
 No evidence
of tension.
IMPRESSION: 
1.  Moderate left pneumothorax without evidence of tension.
2.  Left bronchial valves - if assessment of location is 
desired, CT is needed.
 
___ CXR 7:41AM
1. Insertion of a left chest tube and re-expansion of the left 
lung.
2. No appreciable pneumothorax on the left.
3. Clear right lung.

___ CXR
IMPRESSION: 
No evidence of pneumothorax.  Left pleural catheter is unchanged 
in position.

 
Brief Hospital Course:
___ with severe COPD/emphysema on 3 L NC at baseline s/p 
Spiration endobronchial valve placement LUL x5 on ___ 
presenting with worsening dyspnea found to have left sided 
pneumothorax with resolution  s/p chest tube placement ___.

ACTIVE ISSUES
# Left sided pneumothorax in the setting of recent copd 
exacerbation: Pneumothorax resolved on repeat cxr after chest 
tube was placed. Patient passed clamping trial on day of 
discharge and was without any shortness of breath. She had 
minimal chest pain at prior site of chest tube for which she was 
given 5 tab of oxycodone at discharge. She was discharge home 
with follow-up with Dr. ___ in 6 weeks (with repeat CXR prior 
to that). 

# Severe COPD: enrolled into the EMPROVE trial s/p LUL 5 EBV 
placement on ___. No signs or symptoms of recurrent COPD 
exacerbation, and she has now completed appropriate treatment 
for her recent COPD exacerbation. Patient was continued on 
current prednisone dose 55mg daily with plan to taper in the 
outpatient setting with taper plan provided by her PCP. She was 
also maintained on her home azithromycin, alb nebs/tiotropium, 
and medications equivalent to her home qvar and 
mometasone-formoterol that were on formulary. Patient did not 
require increased oxygen from her baseline (3L NC) after chest 
tube placement. 

# H/o adrenal insufficiency:  Likely secondary chronic steroid 
use. Patient had previously been on prednisone 10mg daily but 
was uptitrated more recently in the setting of copd 
exacerbation.
Patient was continued on current prednisone dose 55mg daily with 
plan to taper in the outpatient setting with taper plan provided 
by her PCP.

CHRONIC ISSUES
# GERD: Continue home omeprazole.
# Osteoporosis: continued equivalent dose home vitamin D
# HTN: Continued home diltiazem.  

# Transitional issues
- complete prednisone taper as prescribed by outpatient 
pulmonologist/primary care doctor
- Please consider need for initiating PCP prophylaxis if patient 
remains on long steroid taper
- She should follow-up with Dr. ___ in 6 weeks with a CXR to 
be performed prior to appointment. 

# CODE STATUS: FULL CODE 
# CONTACT:  Husband ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Azithromycin 250 mg PO Q24H 
3. Diltiazem Extended-Release 120 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. mometasone-formoterol 200-5 mcg/actuation inhalation BID 
7. Qvar (beclomethasone dipropionate) 80 mcg/actuation 
inhalation BID 
8. Calcium Carbonate 750 mg PO BID 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
10. PredniSONE 55 mg PO DAILY 
11. Vitamin D 400 UNIT PO QID 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. Azithromycin 250 mg PO Q24H 
4. Calcium Carbonate 750 mg PO BID 
5. Omeprazole 40 mg PO DAILY 
6. PredniSONE 55 mg PO DAILY 
7. Tiotropium Bromide 1 CAP IH DAILY 
8. Vitamin D 400 UNIT PO QID 
9. Diltiazem Extended-Release 120 mg PO DAILY 
10. mometasone-formoterol 200-5 mcg/actuation inhalation BID 
11. Qvar (beclomethasone dipropionate) 80 mcg/actuation 
inhalation BID 
12. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every 6 hours Disp #*14 Tablet Refills:*0
13. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN breakthrough 
pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*5 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Pneumothorax in the setting of COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted with worsening shortness of breath and chest 
pain. You were found to have a left sided pneumothorax most 
likely due to your COPD. You had a chest tube placed and were 
monitored for 72 hours. Your symptoms improved and we were able 
to send you home after pulling out your chest tube. Please 
continue the prednisone taper as prescribed by your primary care 
doctor. We wish you all the best.

Sincerely,

Your ___ team
 
Followup Instructions:
___